Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
dapsone
 
Attending: ___
 
___ Complaint:
diarrhea, abdominal discomfort

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old female with transformed DLBCL stage IIIB s/p autoSCT 
with BEAM conditioning course complicated by BCNU pneumonitis 
who presents today on D+129 for evaluation of diarrhea.

Patient reports feeling well, in her usual state of health about 
5 days ago.  On ___ evening, she noticed some mild epigastric 
discomfort.  Earlier in the day, both she and her husband had 
reheated ___ and vegetables.  She woke on ___ morning 
with intermittent crampiness with sudden onset emesis and 
diarrhea.  The emesis looked like undigested food, without blood 
or bile.  The diarrhea was non-bloody.  The symtoms persisted 
throughout the day.  She tried to stay up with hydration.  The 
pain, still intermittent, became more severe yesterday.  She 
then was directed to ___.  In the ED, she received IVF, 
a CT abdomen/pelvis was obtained (see below), she received some 
morphine for pain control, and was discharged home after 
symptoms improved.  After returning home, she had ongoing 
diarrhea this morning, and presented to ___ clinic for routine 
follow up, and has been admitted to the floor for further 
evaluation.

Upon arrival to the floor, she notes intermittent epigastric 
discomfort, mild, without radiation.  She had an episode of 
diarrhea in the clinic.  No emesis for about 48 hours.  She is 
not hungry.  She denies any fevers or chills.  Her husband does 
not have any GI symptoms, she has had no sick contact or recent 
travel.  She denies any rashes.
 
Past Medical History:
Oncologic history: In brief, history of follicular lymphoma 
stage IIIA s/p CHOP x 6 cycles in ___ followed by CVP and 
rituximab in ___ for residual disease. ___: RICE 
chemotherapy x 3 cycles. ___ autoBMT (BEAM).  ___ XRT to 
local disease. She has a hx of hypogammaglobulinemia.

obesity
Acute DVT in the right popliteal/femoral veins + superficial 
thrombosis
--Transformed DLBCL with history of follicular lymphoma as noted 
above
--CLL, noted on BM biopsy on ___.
--Cerebral Aneurysm s/p coil ___ c/b hyperthesia of R V1/V2 
(*Known slight CN VI palsy & mild proptosis of R eye)
--Hypogammaglobulinemia, receives IVIG PRN
--R leg DVT.  IVC filter in place, on rivaroxaban
--BCNU pneumonitis, on prednisone
--Mild GERD
--OA / LBP
--Small Intestinal Bacterial Overgrowth
--Trochanteric Bursitis
--s/p Excisional Bx L Cervical Lymph Node
--s/p L total knee replacement ___, walks with cane
--s/p I&D Labial Abscess
--s/p Excision Cyst R ___ Digit of Hand

 
Social History:
___
Family History:
brother- lymphoma

 
Physical ___:
Admission physical:

PHYSICAL EXAM: 
VITALS -  98.8  116/78  HR ___  RR 16  96% RA
General: pleasant, no distress, appears stated age
HEENT: anicteric sclerae, clear oropharynx without lesions
Neck: no adenopathy
CV: RRR, normal S1, S2, no murmurs or rubs
Lungs:  clear bilaterally, good air movement
Abdomen: well-healed surgical incisions, active BS, soft, mildly 
tender in epigastrium, no rebound or guarding, no organomegaly
Ext:   2+ radial and DP pulses, no edema
Neuro: CNs ___ intact, strength and sensation grossly intact, 
ambulatory without assistance
Skin: no petechiae  

Discharge physical:

VITALS -  Tm 99.1, Tc 98, BP 100/62, HR 84, RR 18, SpO2 97 ra
I/O: (-/400 over past 8 hours) (1600/750 over past 24)
General: pleasant, lying in bed in no acute distress
HEENT: normalocephalic/atraumatic, anicteric sclerae 
Neck: supple
CV: RRR, ___ holosystolic murmur noted loudest at ___ ___ 
intercostal space (patient confirmed history of flow murmur)
Lungs:  clear bilaterally, good air movement
Abdomen: well-healed surgical incisions with some tissue 
deformity, + BS, soft, mildly tender in epigastrium, no rebound 
or guarding, no organomegaly
Ext:   2+ radial and DP pulses, no edema
Neuro: Alert and conversing appropriately, moving all 
extremities
Skin: no rashes or lesions 

 
Pertinent Results:
Admission labs:

___ 03:15PM BLOOD WBC-4.8 RBC-2.35* Hgb-9.8* Hct-31.4* 
MCV-134* MCH-41.8* MCHC-31.3 RDW-16.9* Plt Ct-69*
___ 11:52PM BLOOD WBC-3.2* RBC-2.13* Hgb-8.8* Hct-28.3* 
MCV-133* MCH-41.3* MCHC-31.1 RDW-16.9* Plt Ct-68*
___ 03:15PM BLOOD Neuts-93.3* Lymphs-4.6* Monos-1.7* 
Eos-0.4 Baso-0.2
___ 03:15PM BLOOD Plt Ct-69*
___ 11:52PM BLOOD ___ PTT-32.1 ___
___ 11:52PM BLOOD Plt Ct-68*
___ 11:52PM BLOOD Ret Aut-4.6*
___ 03:15PM BLOOD UreaN-16 Creat-0.7 Na-140 K-3.7 Cl-104 
HCO3-26 AnGap-14
___ 11:52PM BLOOD UreaN-14 Creat-0.7 Na-141 K-3.4 Cl-108 
HCO3-26 AnGap-10
___ 03:15PM BLOOD Albumin-3.7 Calcium-8.5 Phos-3.0 Mg-1.8
___ 11:52PM BLOOD Calcium-8.1* Phos-3.0 Mg-1.8
___ 03:15PM BLOOD ALT-19 AST-27 LD(LDH)-266* AlkPhos-69 
TotBili-0.3

Micro:

Stool cultures:

___ 10:36 pm STOOL     CONSISTENCY: WATERY      Source: 
Stool. 

   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Illumigene DNA
      amplification assay. 
           (Reference Range-Negative). 

   FECAL CULTURE (Pending): 

   CAMPYLOBACTER CULTURE (Pending): 

   OVA + PARASITES (Final ___: 
      NO OVA AND PARASITES SEEN. 
      This test does not reliably detect Cryptosporidium, 
Cyclospora or
      Microsporidium. While most cases of Giardia are detected 
by routine
      O+P, the Giardia antigen test may enhance detection when 
organisms
      are rare. 

   VIRAL CULTURE (Pending): 

Imaging:

___:  lipase 12, urinalysis normal  

IMAGING at ___ ___:

Chest PA and lateral:
The lungs remains clear.  The heart and mediastinal structures 
are unremarkable for technique, and appear stable.  The bony 
thorax is grossly intact.  A double-lumen right internal jugular 
catheter remains in place.

CT abdomen/pelvis with oral contrast, without IV contrast 
(comparison made to PET CT from ___:
REDEMONSTRATION OF RETROPERITONEAL OR MESENTERIC 
LYMPHADENOPATHY, WHICH, ALLOWING FOR DIFFERENCES IN TECHNIQUE, 
APPEARS STABLE. ILL DEFINED INCREASED DENSITY WITHIN THE 
MESENTERY IS SLIGHTLY MORE PRONOUNCED THAN BEFORE.  IT IS 
POSSIBLE THAT SUBTLE CHANGES ARE DUE TO ACTIVE LYMPHOMA AND, IF 
CLINICALLY INDICATED, FURTHER EVALUATION BY PET/CT IS 
RECOMMENDED.
      
3.5 CM-THICK LESION IN THE RIGHT PELVIS THAT PROBABLY REPRESENTS 
AN OVARIAN CYST, UNCHANGED.  THIS COULD BE FURTHER EVALUATED BY 
SONOGRAPHY, IF CLINICALLY INDICATED.

Discharge labs:

___ 12:00AM BLOOD WBC-3.5* RBC-2.16* Hgb-9.1* Hct-29.0* 
MCV-135* MCH-42.2* MCHC-31.3 RDW-16.5* Plt Ct-62*
___ 12:00AM BLOOD Neuts-74.2* Lymphs-16.3* Monos-8.6 
Eos-0.7 Baso-0.1
___ 12:00AM BLOOD Plt Ct-62*
___ 12:00AM BLOOD Glucose-74 UreaN-11 Creat-0.7 Na-137 
K-4.0 Cl-104 HCO3-26 AnGap-11
___ 12:00AM BLOOD Calcium-8.6 Phos-2.9 Mg-1.9
 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with transformed DLBCL stage 
IIIB s/p autoSCT with BEAM conditioning course complicated by 
___ pneumonitis who presents today on D+131 (as of ___ for 
evaluation of diarrhea and abdominal pain, likely 
gastroenteritis.

# Emesis/diarrhea- history most consistent with viral 
gastroenteritis, with norovirus on differential. On the day 
after admission, she reported that her husband had fallen ill 
that day with similar symptoms. CT did not demonstrate colitis, 
but was performed without IV contrast. Ischemic colitis is 
unlikely given no cardiovascular risk factors. Other ddx include 
gastritis, pancreatitis, and hepatitis, but given her clinical 
presentation, these are less likely. Received 1L maintenance 
fluids overnight on ___. She still had some diarrhea and 
abdominal pain on ___ but her symptoms had greatly improved by 
___ and she was tolerating po's well. She was maintained on a 
low residue diet and her home furosemide was temporarily held. 
C. diff returned negative and other stool cultures/pcr were 
pending at the time of discharge. She was scheduled for clinic 
follow-up on ___.

# DLBCL- stage IIIb s/p autoSCT with BEAM conditioning, 
complicated by ___ pneumonitis. LDH 266. She has a restaging 
PET/CT scheduled for next week. She received pentamidine for PJP 
ppx on ___. She was maintained on acyclovir ppx as an 
inpatient. Although patient's symptoms are most likely from 
gastroenteritis and are currently improving, disease progression 
should be considered. She will obtain her outpatient PET/CT 
after discharge.
 
#Hypogammaglobulinemia: Patient's last IgG was 340 on ___. 
Received an infusion on ___. Plan was to check an IgG 
level/consider IVIG infusion if symptoms worsened, but the 
patient improved with IV/po fluids. 

# History of BCNU pneumonitis- Patient receives weekly DLCO with 
prednisone taper (5 mg weekly). She was continued on prednisone 
25 mg daily with plans to continue taper after discharge. Her 
next set of PFT's are already scheduled.

# Right ___ DVT- continued rivaroxaban.  Has IVC filter in place.

# Pancytopenia- Possibly viral suppression of bone 
marrow/dilution effect from IVF. Reticulocyte count 4.6. WBC 
improving on ___ but platelets continuing to downtrend. She 
will need to f/u in clinic after discharge to ensure that her 
counts and platelets are recovering.

# Hyperthesia of R V1/V2- chronic, occurred after coiling 
procedure for cerebral aneurysm. Continued home gabapentin.

# GERD- continued home omeprazole

# Depression- continued home venlafaxine

# CODE: Full
# EMERGENCY CONTACT: 
Name of health care proxy: ___ 
Relationship: husband 
Phone number: ___

___ issues:
-Will need to f/u CBC in clinic to ensure recovery of her counts
-Will need to continue her steroid taper as an outpatient: on 25 
mg at discharge.
-Ms. ___ did not require any prescriptions at discharge as 
she stated she already has the medications she needs. She cares 
for her triple lumen catheter herself.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO Q8H 
2. Albuterol Inhaler ___ PUFF IH Q4H:PRN dyspnea 
3. Furosemide 20 mg PO DAILY 
4. Gabapentin 900 mg PO BID 
5. Omeprazole 20 mg PO DAILY 
6. Klor-Con 10 (potassium chloride) 10 mEq oral daily 
7. PredniSONE 25 mg PO DAILY 
8. Rivaroxaban 20 mg PO DAILY 
9. Venlafaxine 25 mg PO BID 
10. Ascorbic Acid ___ mg PO DAILY 
11. Cyanocobalamin 1000 mcg PO DAILY 
12. Calcium 600 with Vitamin D3 (calcium carbonate-vitamin D3) 
600 mg(1,500mg) -400 unit oral daily 

 
Discharge Medications:
1. Acyclovir 400 mg PO Q8H 
2. Omeprazole 20 mg PO DAILY 
3. Albuterol Inhaler ___ PUFF IH Q4H:PRN dyspnea 
4. Ascorbic Acid ___ mg PO DAILY 
5. Cyanocobalamin 1000 mcg PO DAILY 
6. Gabapentin 900 mg PO BID 
7. PredniSONE 25 mg PO DAILY 
8. Rivaroxaban 20 mg PO DAILY 
9. Venlafaxine 25 mg PO BID 
10. Calcium 600 with Vitamin D3 (calcium carbonate-vitamin D3) 
600 mg(1,500mg) -400 unit oral daily 
11. Furosemide 20 mg PO DAILY 
12. Klor-Con 10 (potassium chloride) 10 mEq oral daily 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
# Emesis/diarrhea
# DLBCL- stage IIIb s/p autoSCT with BEAM conditioning, 
complicated by BCNU pneumonitis. 
#Hypogammaglobulinemia
# History of BCNU pneumonitis

Secondary diagnoses
# Right ___ DVT
# Pancytopenia
# Hyperthesia of R V1/V2
# GERD
# Depression

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___. You were admitted 
after experiencing nausea, diarrhea, and abdominal pain. Your 
symptoms are likely from a viral illness and improved during 
your hospital stay with fluids and pain medication. You were 
eventually able to eat and drink adequately and were discharged 
home. If you experience worsening diarrhea, nausea, or abdominal 
pain or develop fever/chills after your discharge, please call 
clinic or return to the Emergency Department as soon as 
possible. You have follow-up appointments scheduled on ___ with 
heme-onc.

Take care, and we wish you the best.

Sincerely,
Your BMT team
 
Followup Instructions:
___